US07074806B2
To a mixture of 500 mg (1.8 mmol) of 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-one and 0.86 mL (3.6 mmol) of a solution of Ti(OEt)4 in EtOH (˜20% Ti) in 7 mL of THF was added 240 mg (2 mmol) t-butylsulfinamide. The reaction was warmed at reflux for 6 h and then cooled to room temperature, diluted with 1 mL of brine and EtOAc and filtered through diatomaceous earth and concentrated to afford an oil. The residue was absorbed onto silica gel and chromatographed on silica gel eluting with hexanes-EtOAc (98:2) to afford 300 mg (44%) of 2-methylpropane-2-sulfinic acid [3-(5-fluoro-2-methoxyphenyl)-3-methyl-1-trifluoromethylbut-(Z)-ylidene]-amide as an orange oil.

reactant | 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-one | 1.8 mmol, 500 mg | FC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O)(F)F | C13H14F4O2
reactant | t-butylsulfinamide | 2 mmol, 240 mg | C(C)(C)(C)S(=O)N | C4H11NOS
solvent | EtOH | CCO | C2H6O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | brine | 1 mL | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-methylpropane-2-sulfinic acid [3-(5-fluoro-2-methoxyphenyl)-3-methyl-1-trifluoromethylbut-(Z)-ylidene]-amide | 300 mg, 44% | FC=1C=CC(=C(C1)C(C/C(/C(F)(F)F)=N/S(=O)C(C)(C)C)(C)C)OC | C17H23F4NO2S
